US06914058B2
4-(2,6-Difluoro-4-nitrophenyl)thiomorpholine
Thiomorpholine (728 mg, 7.06 mmol) was added to a stirring solution of 3,4,5-trifluoronitro benzene (500 mg, 2.82 mmol) in acetonitrile (15 mL) and the reaction mixture was refluxed for 5 h. Evaporation of the solvent in a rotavapor under reduced pressure left a pasty mass which was dissolved in ethyl acetate (50 mL). Ethyl acetate portion was washed with water (30 mL×2) followed by brine (30 mL) and dried over sodium sulfate. Removal of volatiles yielded the title compound as yellow solid (650 mg, 85%).

reactant | Thiomorpholine | 7.06 mmol, 728 mg | N1CCSCC1 | C4H9NS
reactant | 3,4,5-trifluoronitro benzene | 2.82 mmol, 500 mg | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-(2,6-Difluoro-4-nitrophenyl)thiomorpholine | 650 mg, 85% | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCSCC1 | C10H10F2N2O2S
